US04362666
The mixture of 54.0 of N-potassium phthalimide, 50.0 g of o-nitrobenzyl chloride and 120 ml of dimethylformamide is refluxed for 3 hours and poured into 900 ml of ice-water while stirring. After 30 minutes, it is filtered, and the residue washed with water, to yield the N-o-nitrobenzyl-phthalimide melting at 190°-209°.

reactant | N-potassium phthalimide | C1=CC=C2C(=C1)C(=O)[N-]C2=O.[K+]
reactant | o-nitrobenzyl chloride | 50.0 g | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | N-o-nitrobenzyl-phthalimide | [N+](=O)([O-])C1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C15H10N2O4
